US04761420
Next, a solution of NaOH (41.3 mL of 35% NaOH in 375 mL H2O) was slowly added to a solution of 2,6-dimethyl-3-carbomethoxy-4-(3-nitrophenyl)-5-(2-cyano)ethoxycarbonyl-1,4-dihydropyridine (80 g, 0.21 mol) in acetone (240 mL). Then, CH2Cl2 (500 mL) was added and 12N HCl (41.3 mL) slowly introduced. The resulting precipitate was filtered and recrystallized from dimethylformamide/H2O (175 mL DMF, 72 mL H2O) to yield 2,6-dimethyl-3-carbomethoxy-4-(3-nitrophenyl)-5-carboxy-1,4-dihydropyridine (mp=242° C.).

reactant | NaOH | 41.3 mL | [OH-].[Na+]
reactant | 2,6-dimethyl-3-carbomethoxy-4-(3-nitrophenyl)-5-(2-cyano)ethoxycarbonyl-1,4-dihydropyridine | 0.21 mol, 80 g | CC=1NC(=C(C(C1C(=O)OC)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OCCC#N)C | C19H19N3O6
reactant | CH2Cl2 | 500 mL | C(Cl)Cl | CH2Cl2
reactant | HCl | 12N, 41.3 mL | Cl | ClH
solvent | acetone | 240 mL | CC(=O)C | C3H6O
product | 2,6-dimethyl-3-carbomethoxy-4-(3-nitrophenyl)-5-carboxy-1,4-dihydropyridine | CC=1NC(=C(C(C1C(=O)OC)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)O)C | C16H16N2O6
